US07335658B2
6-[4-(2-CYANOBENZOYL)PIPERAZIN-1-YL]-PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 2-cyanobenzoic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white solid (25.8% yield). 1H NMR (300 MHz, CDCl3) δ 8.05, 7.97, 7.76-7.72, 7.69-7.66, 7.58-7.55, 7.53-7.43, 6.99, 4.3-3.94, 3.88-3.85, 3.58-3.51, 1.49, 0.78-0.65, 0.48-0.37, 0.16-0.02. 13C NMR (75 MHz, CDCl3) δ 166.5, 162.8, 159.9, 145.3, 139.3, 133.3, 133.04, 129.9, 127.6, 127.03, 116.8, 112.4, 109.9, 46.4, 44.7, 44.6, 41.6, 39.6, 34.4, 8.6, 4.1. MS (ES+) m/z 405.2 (M+1).

reactant | 2-cyanobenzoic acid | C(#N)C1=C(C(=O)O)C=CC=C1 | C8H5NO2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2-CYANOBENZOYL)PIPERAZIN-1-YL]-PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C#N)=O | C22H24N6O2
